US08466292B2
To a solution of 250 mg (0.42 mmol) of (3S)-3-({[6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-methylphenyl)pyridin-2-yl]-carbonyl}amino)-4,4-dimethylpentanoic acid hydrochloride and 49 mg (0.51 mmol) of methanesulfonamide in 2 mL of DCM are successively added 52 mg (0.42 mmol) of DMAP and 89 mg (0.47 mmol) of EDC.HCl. The reaction medium is stirred for 16 hours at room temperature. A further 0.42 mmol of EDC.HCl and 0.42 mmol of methanesulfonamide are added and the reaction mixture is stirred for a further 3 days and then concentrated under reduced pressure. The residue is taken up in 100 mL of EtOAc and the organic phase is washed with 30 mL of water and then with 30 mL of aqueous 4M NaHCO3 solution. After drying over Na2SO4 and concentrating under reduced pressure, the residue is purified by chromatography on a column of silica gel, eluting with a DCM/methanol gradient of from 0 to 10% methanol. After concentrating under reduced pressure, the residue is taken up in 2 mL of methanol and 0.5 mL of aqueous 1N HCl solution and then purified by reverse-phase HPLC (RP18), eluting with a 10−2N HCl/acetonitrile gradient of from 5% to 100% acetonitrile over 90 minutes. After concentrating under reduced pressure and freeze-drying, 130 mg of 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-N-[(1S)-2,2-dimethyl-1-{2[(methylsulfonyl)amino]-2-oxoethyl}propyl]-5-(2-methylphenyl)pyridine-2-carboxamide hydrochloride are obtained in the form of a white powder.

reactant | (3S)-3-({[6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-methylphenyl)pyridin-2-yl]-carbonyl}amino)-4,4-dimethylpentanoic acid hydrochloride | 0.42 mmol, 250 mg | Cl.ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)N[C@@H](CC(=O)O)C(C)(C)C)C1=C(C=CC=C1)C)OCCCN(C)C
reactant | methanesulfonamide | 0.51 mmol, 49 mg | CS(=O)(=O)N | CH5NO2S
reactant | EDC.HCl | 0.47 mmol, 89 mg | CCN=C=NCCCN(C)C.Cl
reactant | EDC.HCl | 0.42 mmol | CCN=C=NCCCN(C)C.Cl
reactant | methanesulfonamide | 0.42 mmol | CS(=O)(=O)N | CH5NO2S
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.42 mmol, 52 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-N-[(1S)-2,2-dimethyl-1-{2[(methylsulfonyl)amino]-2-oxoethyl}propyl]-5-(2-methylphenyl)pyridine-2-carboxamide hydrochloride | 130 mg, Yield=46% | Cl.ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)N[C@H](C(C)(C)C)CC(=O)NS(=O)(=O)C)C1=C(C=CC=C1)C)OCCCN(C)C | InChI=1S/C32H41ClN4O5S.ClH/c1-21-11-8-9-12-23(21)24-14-16-26(31(39)35-28(32(2,3)4)20-29(38)36-43(7,40)41)34-30(24)22-13-15-25(33)27(19-22)42-18-10-17-37(5)6;/h8-9,11-16,19,28H,10,17-18,20H2,1-7H3,(H,35,39)(H,36,38);1H/t28-;/m0./s1
